US08017602B2
Step iii) N-Cyclopentyl-N-(2,2-dimethoxyethyl)-3-(3-(1-propyl-1H-pyrazol-4-yl)phenethoxy)propanamide
A solution of T3P (0.637 mL, 1.57M) dissolved in THF was added to a stirred solution of 3-(3-(1-propyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid [Example 18, Step ii)] (151 mg), triethylamine (0.906 mL) and N-(2,2-dimethoxyethyl)cyclopentanamine [Preparation 9] (106 mg) in acetonitrile (2 mL) at 22° C. under air. The resulting solution was stirred at 22° C. for 30 min. The reaction mixture was neutralised with saturated sodium hydrogen carbonate and extracted with DCM. The organic was filtered through a phase separator cartridge and evaporated to afford crude product. The crude product was purified by flash silica chromatography using elution gradient 0 to 100% ethyl acetate in isohexane to the subtitled compound (150 mg) as an oil. MS [M+H-MeOH]+=426 (MultiMode+) 1H NMR (300 MHz, CD3OD) δ 8.00 (s, 1H), 7.83 (s, 1H), 7.43 (s, 1H), 7.39 (d, J=7.9 Hz, 1H), 7.26 (t, J=7.6 Hz, 1H), 7.09 (d, J=7.5 Hz, 1H), 4.60 and 4.41 (2×t, J=5.2 Hz, 1H), 4.31-4.18 (m, 1H), 4.14 (t, J=7.0 Hz, 2H), 3.80-3.67 (m, 4H), 3.39 and 3.26 (2×d, J=5.3 Hz, 2H), 3.38 (s, 3H), 3.36 (s, 3H), 2.88 (t, J=6.6 Hz, 2H), 2.69 (t, J=6.2 Hz, 2H), 1.92 (sextet, J=7.2 Hz, 2H), 1.85-1.47 (m, 8H), 0.95 (t, J=7.4 Hz, 3H), a ˜1:1 mixture of rotamers is observed.

reactant | T3P | 1.57M, 0.637 mL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | 3-(3-(1-propyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid | C(CC)N1N=CC(=C1)C=1C=C(CCOCCC(=O)O)C=CC1 | C17H22N2O3
reactant | N-(2,2-dimethoxyethyl)cyclopentanamine | 106 mg | COC(CNC1CCCC1)OC | C9H19NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | triethylamine | 0.906 mL | C(C)N(CC)CC | C6H15N
product | N-Cyclopentyl-N-(2,2-dimethoxyethyl)-3-(3-(1-propyl-1H-pyrazol-4-yl)phenethoxy)propanamide | C1(CCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)CCC)=O)CC(OC)OC | C26H39N3O4
